US07947692B2
Step1: 4,6-Dihydroxy-2-methylthiopyrimidine (10.0 g, 63.22 mmol) was added over 1 hr to fuming nitric acid (30 mL) at 0° C. The red solution was stirred an additional 1 hr at 0° C. and then poured onto ice to give a light brown solid which was filtered off and washed with water and diethyl ether. The solid was dried under vacuo to give 4,6-Dihydroxy-2-methylthio-5-nitropyrimidine (9.30 g, 72%) as a light brown solid. LRMS for C5H5N3O4S (M+H)+ at m/z=203. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4,6-Dihydroxy-2-methylthiopyrimidine | 63.22 mmol, 10.0 g | OC1=NC(=NC(=C1)O)SC | C5H6N2O2S
reactant | nitric acid | 30 mL | [N+](=O)(O)[O-] | HNO3
product | 4,6-Dihydroxy-2-methylthio-5-nitropyrimidine | 9.30 g, 72% | OC1=NC(=NC(=C1[N+](=O)[O-])O)SC | C5H5N3O4S
